US04012377
p-Fluorocinnamaldehyde (9.0 g.) was refluxed for 1 hr. in 98% formic acid containing sodium formate (10 g.) and hydroxylamine hydrochloride (7 g.). The solution was cooled and poured into water (275 ml.), giving a solid. This was washed well with water, leaving p-fluorocinnamonitrile (6.21 g., 70%), m.p. 64°-65°, λmax. (EtOH) 271 nm ε 22500.

reactant | p-Fluorocinnamaldehyde | 9.0 g | FC1=CC=C(C=CC=O)C=C1 | C9H7FO
reactant | sodium formate | 10 g | C(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 7 g | Cl.NO
reactant | water | 275 ml | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | p-fluorocinnamonitrile | 6.21 g, 70% | FC1=CC=C(C=CC#N)C=C1 | C9H6FN
